US07893267B2
1.2 g (5.5 mmol) of 3-amino-4,5-difluoro-2-nitro-benzoic acid was heated with excess 21% NaOEt in ethanol at 90° C. for 6 h to yield 3-amino-5-ethoxy-4-fluoro-2-nitro-benzoic acid. LCMS: 245 (M+1)+.

reactant | 3-amino-4,5-difluoro-2-nitro-benzoic acid | 5.5 mmol, 1.2 g | NC=1C(=C(C(=O)O)C=C(C1F)F)[N+](=O)[O-] | C7H4F2N2O4
reactant | NaOEt | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-5-ethoxy-4-fluoro-2-nitro-benzoic acid | NC=1C(=C(C(=O)O)C=C(C1F)OCC)[N+](=O)[O-] | C9H9FN2O5
